US08835428B2
Step 3: (S)-methyl 2-(3-(4-(3-(2-fluorophenyl)ureido)phenyl)-N-methylisoxazole-5-carboxamido)-3-methylbutanoate
((S)-Methyl 2-(3-(4-aminophenyl)-N-methylisoxazole-5-carboxamido)-3-methylbutanoate (170 mg. 0.513 mmol) was dissolved in THF (10 ml) and to it 2-fluorophenylisocyanate (105 mg. 0.770 mmol) was added. Reaction mixture was stirred at RT for 24 hours. THF was removed under reduced pressure to get pale brown residue, which was purified by column chromatography using EtOAc and CHCl3 as the solvent system to yield 160 mg (67%) of the title compound. MS: ES (−): m/z 467 (M−1); ES (+): m/z 469(M+1); 1HNMR (DMSO-d6, 300 MHz) δ: 9.356 (s, 1H), 8.648 (d, 1H), 8.176 (t, 1H), 7.906 (d, 2H), 7.631-7.448 (s, 1H+d, 2H), 7.287 (m, 1H), 7.185 (t, 1H), 7.065 (m, 1H), 4.738-4.164 (d, 1H), 3.734-3.702 (s, 3H), 3.151-2.963 (s, 3H), 2.339 (m, 1H), 1.030-0.877 (d, 3H(×2)).

reactant | (S)-Methyl 2-(3-(4-aminophenyl)-N-methylisoxazole-5-carboxamido)-3-methylbutanoate | 0.513 mmol, 170 mg | NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)N(C)[C@H](C(=O)OC)C(C)C | C17H21N3O4
reactant | 2-fluorophenylisocyanate | 0.770 mmol, 105 mg | FC1=C(C=CC=C1)N=C=O | C7H4FNO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (S)-methyl 2-(3-(4-(3-(2-fluorophenyl)ureido)phenyl)-N-methylisoxazole-5-carboxamido)-3-methylbutanoate | 160 mg, 67% | FC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)N(C)[C@H](C(=O)OC)C(C)C)=O | C24H25FN4O5
